US06713474B2
(4-Aminophenyl)methanol (1.23 g, 10 mmol) and diisopropylethylamine (2.6 mL, 15 mmol) was mixed with di-tert-butyl dicarbonate (2.62 g, 12 mmol) in dichloromethane (50 mL). The mixture was stirred at room temperature overnight. Ethyl acetate was added and the organic layer was washed with water, 1.0N HCl, saturated sodium carbonate, water, brine, dried over MgSO4, filtered and evaporated. The crude product was purified by flash column chromatography with Ethyl acetate/heptane (2:3) to give tert-butyl N-(4-(hydroxymethyl)phenyl)carbamate (2.16 g, 9.67 mmol). 1H NMR (CDCl-d) δ 1.52(s, 9H), 4.63(s, 2H), 6.47(bs, 1H), 7.30(d, 8.5 Hz, 2H), 7.36(d, 8.5 Hz,2H).

reactant | (4-Aminophenyl)methanol | 10 mmol, 1.23 g | NC1=CC=C(C=C1)CO | C7H9NO
reactant | diisopropylethylamine | 15 mmol, 2.6 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | di-tert-butyl dicarbonate | 12 mmol, 2.62 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | tert-butyl N-(4-(hydroxymethyl)phenyl)carbamate | 9.67 mmol, 2.16 g | OCC1=CC=C(C=C1)NC(OC(C)(C)C)=O | C12H17NO3
